US04377580
A mixture of 4,6-diaminoquinazoline hydrochloride (1.97 g), sodium hydrogen carbonate (6.72 g) and pyridine (20 ml) was stirred under ice-cooling. To the mixture was added dropwise during 30 minutes methanesulfonyl chloride (4.58 g) under ice-cooling. The reaction mixture was stirred for an hour under ice-cooling and for 4 hours at ambient temperature. To the mixture was added ice-water. The resultant mixture was stirred for about five minutes and concentrated under reduced pressure. To the residue was added a mixture of chloroform and methanol. The mixture was stirred under heating. Insoluble materials were removed by filtration and then the filtrate was concentrated under reduced pressure to give crude crystals, to which was added a mixture of chloroform and methanol (4:1). The mixture was stirred under heating to give crystals, which were separated by filtration to give crystalline 4-amino-6-methanesulfonamidoquinazoline (1.45 g).

reactant | 4,6-diaminoquinazoline hydrochloride | 1.97 g | Cl.NC1=NC=NC2=CC=C(C=C12)N
reactant | sodium hydrogen carbonate | 6.72 g | C(O)([O-])=O.[Na+]
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 4.58 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-amino-6-methanesulfonamidoquinazoline | 1.45 g | NC1=NC=NC2=CC=C(C=C12)NS(=O)(=O)C | C9H10N4O2S
